US07521462B2
sec-Butyllithium (1.4 M in cyclohexane, 5.0 ml, 7.0 mmol) is added dropwise to a stirred solution of 8-bromoquinoline (1.29 g, 6.22 mmol) and anhydrous tetrahydrofuran (22 ml) at −78° C. under nitrogen. The reaction is then stirred at −78° C. for 10 min and then dimethylformamide (2.5 ml, 32.3 mmol) is added. The reaction is then stirred for 10 min at −78° C. and then quenched with water. The reaction is poured into saturated sodium bicarbonate (100 ml) and extracted with ethyl acetate (100 ml×3). The ethyl acetate is dried over sodium sulfate and then the sodium sulfate is filtered. The crude product is concentrated on a rotary evaporator and purified by flash chromatography on silica gel eluting with 20% ethyl acetate/hexanes to yield (0.57 g, 58%) of quinoline-8-carboxaldehyde: mass spectrum (ion spray): m/z=158.0 (+1): 1H NMR (CDCl3): δ=11.46 (1H, s), 9.06-9.04 (1H, m), 8.34-8.32 (1H, m), 8.26-8.23 (1H, m), 8.11-8.08 (1H, m), 7.70-7.66 (1H, m), 7.53-7.50 (1H, m).

reactant | sec-Butyllithium | 7.0 mmol, 1.4 M, 5.0 ml | C(C)(CC)[Li]
reactant | 8-bromoquinoline | 6.22 mmol, 1.29 g | BrC=1C=CC=C2C=CC=NC12 | C9H6BrN
reactant | dimethylformamide | 32.3 mmol, 2.5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | quinoline-8-carboxaldehyde | 0.57 g, 58% | N1=CC=CC2=CC=CC(=C12)C=O | C10H7NO
